US04454338
To a solution of 1.1 g of phenoxyacetic acid in 50 ml of pyridine, was added 2.2 g of DCC. The mixture was stirred at room temperature for 30 minutes, then admixed with 2.0 g of 6-amidino-2-naphthol methanesulfonate, and again stirred overnight at room temperature. The insolubles were removed by filtration, 500 ml of ethyl ether was added to the mother liquor and thoroughly stirred to precipitate a solid substance which was collected by filtration and recrystallized three times from methanol to obtain 0.3 g of 6-amidino-2-naphthyl phenoxyacetate methanesulfonate.

reactant | phenoxyacetic acid | 1.1 g | O(C1=CC=CC=C1)CC(=O)O | C8H8O3
reactant | DCC | 2.2 g | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
reactant | 6-amidino-2-naphthol methanesulfonate | 2.0 g | CS(=O)(=O)OC1=CC2=CC=C(C=C2C=C1)C(N)=N | C12H12N2O3S
solvent | pyridine | 50 ml | N1=CC=CC=C1 | C5H5N
product | 6-amidino-2-naphthyl phenoxyacetate methanesulfonate | 0.3 g | CS(=O)(=O)O.O(C1=CC=CC=C1)CC(=O)OC1=CC2=CC=C(C=C2C=C1)C(N)=N | InChI=1S/C19H16N2O3.CH4O3S/c20-19(21)15-7-6-14-11-17(9-8-13(14)10-15)24-18(22)12-23-16-4-2-1-3-5-16;1-5(2,3)4/h1-11H,12H2,(H3,20,21);1H3,(H,2,3,4)
